US06369088B2
5-Methoxy-3-(4-(2-oxopyrrolidin-1-yl)-3-methylphenyl)-3H-(1,3,4)oxad iazol-2-one
The latter compound was prepared by reacting 5-methoxy-3-(4-(4-chlorobutanoylamino)-3-methylphenyl)-3H-(1,3,4)oxadiazol-2-one with sodium hydride in dioxane at room temperature and purifying the crude product by column chromatography (silica gel, methylene chloride:methanol=98:2).

reactant | 5-methoxy-3-(4-(4-chlorobutanoylamino)-3-methylphenyl)-3H-(1,3,4)oxadiazol-2-one | COC1=NN(C(O1)=O)C1=CC(=C(C=C1)NC(CCCCl)=O)C | C14H16ClN3O4
reactant | sodium hydride | [H-].[Na+]
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5-Methoxy-3-(4-(2-oxopyrrolidin-1-yl)-3-methylphenyl)-3H-(1,3,4)oxad iazol-2-one | COC1=NN(C(O1)=O)C1=CC(=C(C=C1)N1C(CCC1)=O)C | C14H15N3O4
